US08049013B2
2-(4-Chloro-phenyl)-4-(2,2-dimethoxy-ethyl)-thiazole-5-carboxylic acid
Mix 2-(4-chloro-phenyl)-4-(2,2-dimethoxy-ethyl)-thiazole-5-carboxylic acid methyl ester (3.6 g, 10.5 mmol) in EtOH (40 mL) and then add 2 M NaOH (6.8 mL). Stir the slurry mechanically overnight and then concentrate in vacuo. Dissolve the solid in water (40 mL), cool to 0° C., and adjust the pH to 5-6 with 1 N HCl (13 mL). Stir the slurry for 15 min, collect the precipitate, and wash the solid with water (4×20 mL). Dry the solid in a vacuum oven overnight to give 3.3 g (96%) of the title compound. ES/MS m/z (35Cl) 326.0 [M−1]−.

reactant | 2-(4-chloro-phenyl)-4-(2,2-dimethoxy-ethyl)-thiazole-5-carboxylic acid methyl ester | 10.5 mmol, 3.6 g | COC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CC(OC)OC | C15H16ClNO4S
reactant | NaOH | 2 M, 6.8 mL | [OH-].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | 2-(4-Chloro-phenyl)-4-(2,2-dimethoxy-ethyl)-thiazole-5-carboxylic acid | 3.3 g, 96% | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC(OC)OC)C(=O)O | C14H14ClNO4S
